US06001839
4-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopent-2-enol (110 mg) was hydrogenated in ethanol (20 ml) with gaseous hydrogen at atmospheric pressure using 10% palladium on charcoal (50 mg) as the catalyst. The catalyst was removed by filtration and the filtrate was evaporated to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentanol, as an oil. The structure was confirmed by 1H nmr and mass spectra.

reactant | 4-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopent-2-enol | 110 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2C=CC(C2)O | C23H20N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentanol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC(CC2)O | C23H22N4O2
